US08445510B2
1-(1,4-Dioxaspiro[4.5]dec-8-yl)-4-iodo-3-methoxy-1H-pyrazole
A solution of 4-iodo-3-methoxy-1H-pyrazole (0.783 g, 3.50 mmol), 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate (1.20 g, 3.84 mmol), and Cs2CO3 (1.71 g, 5.24 mmol) in anhydrous degassed DMF (26.1 mL) was heated to 100° C. for 3 h. From LCMS, there was still starting material (pyrazole) therefore the reaction mixture was charged with an additional 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate (0.437 g, 1.40 mmol) and Cs2CO3 (0.683 g, 2.10 mmol) and heated to 100° C. for an additional 16 h. The reaction mixture was partitioned between EtOAc (100 mL) and H2O (25 mL) and separated. The aqueous was re-extracted with EtOAc (3×) and the combined organic fractions were washed with H2O (3×25 mL), brine (1×), dried over Na2SO4, filtered and concentrated in vacuo resulting in 1.29 g of a crude orange oil/solid mixture. The crude was crystallized from MeOH and the white crystals were filtered through a fritted funnel resulting in the title compound as white crystals. 1H NMR (400 MHz, CD3OD): δ=1.63-1.74 (m, 2H), 1.81-1.89 (m, 2H), 1.98-2.07 (m, 4H), 3.87 (s, 3H), 3.91-3.99 (m, 4H), 4.00-4.09 (m, 1H), 7.48 (s, 1H). MS (ES+): m/z 365.05 [MH+]. HPLC: tR=3.98 min (polar—5 min, ZQ3).

reactant | 4-iodo-3-methoxy-1H-pyrazole | 3.50 mmol, 0.783 g | IC=1C(=NNC1)OC | C4H5IN2O
reactant | 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate | 3.84 mmol, 1.20 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC2(OCCO2)CC1 | C15H20O5S
reactant | Cs2CO3 | 5.24 mmol, 1.71 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 1,4-dioxaspiro[4.5]dec-8-yl 4-methylbenzenesulfonate | 1.40 mmol, 0.437 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCC2(OCCO2)CC1 | C15H20O5S
reactant | Cs2CO3 | 2.10 mmol, 0.683 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 26.1 mL | CN(C)C=O | C3H7NO
product | 1-(1,4-Dioxaspiro[4.5]dec-8-yl)-4-iodo-3-methoxy-1H-pyrazole | O1CCOC12CCC(CC2)N2N=C(C(=C2)I)OC | C12H17IN2O3
